US04411901
Reduction of 4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride (2.0 g., 0.005 mole) with sodium borohydride (0.57 g., 0.015 mole) in 200 ml. of absolute ethanol is carried out according to the procedure of Example 13. Residual material remaining after concentration of the acidified mixture is basified with sodium hydroxide and extracted with chloroform. The combined extracts are dried over magnesium sulfate, concentrated in vacuo and triturated with ether to give 1.2 g. of the free base product. Crystallization of this material from ethanol affords analytically pure α-[3-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]propyl]-4-fluorobenzenemethanol, m.p. 142.5°-143.5° C.

reactant | 4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride | 0.005 mole, 2.0 g | Cl.O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F
reactant | sodium borohydride | 0.015 mole, 0.57 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | α-[3-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]propyl]-4-fluorobenzenemethanol | O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(O)C2=CC=C(C=C2)F | C21H24FN3O2
